US07038055B2
Step 6: (2S,3R)-2-Amino-3-methoxy-1-(3-quinolylmethanesulfonyl)butane dihydrochloride
A stirred solution of (2S,3R)-2-(N-t-butoxycarbonylamino)-3-methoxy-1-(3-quinolylmethanesulfonyl)butane (1 g) in MDC (10 ml) at rt was treated with 4M hydrogen chloride in dioxan (10 ml). After 1 h the mixture was evaporated to give the subtitle compound (0.93 g). MS (APCI+ve ion) 309 (MH+), 1H NMR δ(DMSO-d6) 9.04 (1H, m), 8.71 (1H, s), 8.3 (3H, broad s), 8.2 (2H, m), 7.91 (1H, t, J=8 Hz), 7.78 (1H, t, J=8 Hz), 5.08 (2H, m), 3.3–3.88 (4H, m), 3.31 (3H,s), 1.7 (2H, m), 1.19 (3H, d,J=6.3 Hz),

reactant | (2S,3R)-2-(N-t-butoxycarbonylamino)-3-methoxy-1-(3-quinolylmethanesulfonyl)butane | 1 g | C(C)(C)(C)OC(=O)N[C@H](CS(=O)(=O)CC=1C=NC2=CC=CC=C2C1)[C@@H](C)OC | C20H28N2O5S
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | (2S,3R)-2-Amino-3-methoxy-1-(3-quinolylmethanesulfonyl)butane dihydrochloride | 0.93 g | Cl.Cl.N[C@H](CS(=O)(=O)CC=1C=NC2=CC=CC=C2C1)[C@@H](C)OC | InChI=1S/C15H20N2O3S.2ClH/c1-11(20-2)14(16)10-21(18,19)9-12-7-13-5-3-4-6-15(13)17-8-12;;/h3-8,11,14H,9-10,16H2,1-2H3;2*1H/t11-,14-;;/m1../s1
